US04614812
In a 25 ml apparatus, there were combined 2.6 g (0.023 mol) of MeSiHCl2, 2.0 g (0.023 mol) of EtMe2SiH, and 1.9 g (0.023 mol) of 4-methyl-1-pentene. A few droplets of Pt catalyst solution were added at 22° C. Gentle heating caused an exothermic reaction to 53° C. over 21 min., followed by heating at 50° C. for 130 min. VPC analysis of the complete reaction showed equivalent yields of MeSiCl2CH2CH2CH2CHMe2 and EtMe2SiCH2CH2CH2CHMe2. This example shows that while the promoting effect of EtMe2SiH is nearly equivalent to that of Et3SiH for the reaction of MeSiHCl2 with 4-methyl-1-pentene, its competitive reactivity is significantly higher.

reactant | MeSiHCl2 | 0.023 mol, 2.6 g | C[SiH](Cl)Cl | CH4Cl2Si
reactant | 4-methyl-1-pentene | 0.023 mol, 1.9 g | CC(CC=C)C | C6H12
product | MeSiCl2CH2CH2CH2CHMe2 | C[Si](Cl)(Cl)CCCC(C)C | C7H16Cl2Si
